US05969140
1-(4-Pyridyl)-2,3-bis(methoxycarbonyl)-6-hydroxy-7-methoxynaphthalene and octyl iodide are treated in the same manner as in Reference Example 117-(2) to give 1-(4-pyridyl)-2,3-bis(methoxycarbonyl)-6-octyloxy-7-methoxynaphthalene.

reactant | 1-(4-Pyridyl)-2,3-bis(methoxycarbonyl)-6-hydroxy-7-methoxynaphthalene | N1=CC=C(C=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)O)C(=O)OC)C(=O)OC | C20H17NO6
reactant | octyl iodide | C(CCCCCCC)I | C8H17I
product | 1-(4-pyridyl)-2,3-bis(methoxycarbonyl)-6-octyloxy-7-methoxynaphthalene | N1=CC=C(C=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)OCCCCCCCC)C(=O)OC)C(=O)OC | C28H33NO6
